US07459451B2
A mixture of ethyl (2E)-3-[1-ethyl-6-(methoxymethyl)-4-(5-methyl-3-pyridyl)-1H-pyrazolo[3,4-b]pyridin-5-yl]acrylate (50 mg) in EtOH (3 ml) was hydrogenated (3 atm) over platinum oxide (25 mg) at room temperature for 7 hours. The catalyst was filtered off through celite pad and the filtrate was concentrated in vacuo. The residue was purified by flash column chromatography-on silica gel eluting with a mixture of EtOAc and n-hexane (1:1) then a mixture of MeOH and CHCl3 (1:40) to give ethyl 3-[1-ethyl-6-(methoxymethyl)-4-(5-methyl-3-pyridyl)-1H-pyrazolo[3,4-b]pyridin-5-yl]propanoate (29 mg) as a colorless crystal.

reactant | ethyl (2E)-3-[1-ethyl-6-(methoxymethyl)-4-(5-methyl-3-pyridyl)-1H-pyrazolo[3,4-b]pyridin-5-yl]acrylate | 50 mg | C(C)N1N=CC=2C1=NC(=C(C2C=2C=NC=C(C2)C)/C=C/C(=O)OCC)COC | C21H24N4O3
solvent | EtOH | 3 ml | CCO | C2H6O
catalyst | platinum oxide | 25 mg | [Pt]=O
product | ethyl 3-[1-ethyl-6-(methoxymethyl)-4-(5-methyl-3-pyridyl)-1H-pyrazolo[3,4-b]pyridin-5-yl]propanoate | 29 mg | C(C)N1N=CC=2C1=NC(=C(C2C=2C=NC=C(C2)C)CCC(=O)OCC)COC | C21H26N4O3
